US09216964B2
To a solution of 2-(5-methylpyridin-2-yl)isoindoline-1,3-dione (1.62 g, 6.8 mmol) in DCM (32 ml) is added mCPBA (4.1 g, 18.2 mmol) in small portions at room temperature, and the solution is then stirred at room temperature overnight. The solution is diluted with dichloromethane, washed with aqueous Na2CO3 solution, dried over Na2SO4 and concentrated to afford 2-(1,3-dioxoisoindolin-2-yl)-5-methylpyridine 1-oxide as a brown solid. It is used without further purification in the next step. LC-MS m/z: 254.1 (M+1).

reactant | 2-(5-methylpyridin-2-yl)isoindoline-1,3-dione | 6.8 mmol, 1.62 g | CC=1C=CC(=NC1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
reactant | mCPBA | 18.2 mmol, 4.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 32 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(1,3-dioxoisoindolin-2-yl)-5-methylpyridine 1-oxide | O=C1N(C(C2=CC=CC=C12)=O)C1=[N+](C=C(C=C1)C)[O-] | C14H10N2O3
